US06303593B1
1-Benzyl-4-(2-oxoethyl)piperidine
To a solution of 3 mL (34.4 mmol) of oxalyl chloride in 80 mL of CH2Cl2 at −78° C. was added a solution of 4.9 mL (68.8 mmol) of DMSO in 5 mL of CH2Cl2. After stirring for 10 min, a solution of 4 g (18.24 mmol) of 1-benzyl-4-(2-hydroxy-1-ethyl)piperidine (Acros Chemical) in 20 mL of CH2Cl2 was added dropwise. After 30 min, 12 mL (86.1 mmol) of Et3N was added and the reaction mixture was allowed to warm to rt over a period of 30 min. To the reaction mixture was added 100 mL of H2O and it was extracted with CH2Cl2. The combined organic fractions were washed with sat'd NaCl solution, and dried over MgSO4 and filtered. The filtrate was concentrated to give 4 g of the title compound.

reactant | oxalyl chloride | 34.4 mmol, 3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 68.8 mmol, 4.9 mL | CS(=O)C | C2H6OS
reactant | 1-benzyl-4-(2-hydroxy-1-ethyl)piperidine | 18.24 mmol, 4 g | C(C1=CC=CC=C1)N1CCC(CC1)CCO | C14H21NO
reactant | Et3N | 86.1 mmol, 12 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 100 mL | O | H2O
product | 1-Benzyl-4-(2-oxoethyl)piperidine | 4 g | C(C1=CC=CC=C1)N1CCC(CC1)CC=O | C14H19NO
